US07981903B2
A mixture of 2-amino-6-fluorobenzamide (10 g, 64.9 mmol, Piedmont or Ryan Scientific) and 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (17.7 g, 51.7 mmol) was taken up into trifluoroethanol (400 mL) and trifluoroacetic acid (20 mL, 260 mmol). The resulting yellow slurry was heated at 80° C. After heating for 30 minutes a clear brown solution was obtained, which was heated at 80° C. for 18 h, then at the reflux temperature for an additional 6 h. The resulting slurry was cooled to 0° C. and filtered. The filtrate was concentrated down to 200 mL volume, heated at 80C for 20 h, cooled to 0° C., then filtered. The two crops of solids were combined, taken up into isopropanol (150 mL), heated at the reflux temperature for 4 h, then filtered to give 13 g (55%) of 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide as a pale yellow solid; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.36 (s, 3 H), 6.71 (d, J=3.66 Hz, 1 H), 7.12-7.17 (m, 1 H), 7.45-7.48 (m, 2 H), 7.49-7.52 (m, 1 H), 7.61 (d, J=7.87 Hz, 1 H), 7.67 (d, J=4.03 Hz, 1 H), 7.80 (s, 1 H), 7.89 (s, 1 H), 7.95-7.98 (m, 2 H), 10.47 (s, 1 H).

reactant | 2-amino-6-fluorobenzamide | 64.9 mmol, 10 g | NC1=C(C(=O)N)C(=CC=C1)F | C7H7FN2O
reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 51.7 mmol, 17.7 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | trifluoroacetic acid | 260 mmol, 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroethanol | 400 mL | C(C(F)(F)F)O | C2H3F3O
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 13 g, 55% | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F | C20H15ClFN5O3S
